US05650428
A solution of K2CO3 (3.2 g) in water (40 ml) was added to a solution of (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-methylthiobutanamide (3.75 g) in methanol (80 ml), and the whole was stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduced pressure. It was repeated 3 times in order to remove methanol completely that a small amount of purified water was added to the residue, and then the product was concentrated under reduced pressure. The residue was dissolved in purified water and washed with ethyl acetate. The aqueous layer was acidified with 1N HCl, and then extracted with ethyl acetate. The combined ethyl acetate layers were washed with a saturated saline solution, and dried over Na2SO4. Then, the solvent was evaporated under reduced pressure, and the resulting crude product was recrystallized from acetonitrile to obtain (S)-N-(4-(carboxymethyl)phenyl)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanamide (2.84 g).

reactant | K2CO3 | 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-methylthiobutanamide | 3.75 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC=C(C=C1)CC(=O)OCC)CCC | C21H25ClN2O4S2
solvent | water | 40 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | (S)-N-(4-(carboxymethyl)phenyl)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanamide | 2.84 g | C(=O)(O)CC1=CC=C(C=C1)NC([C@H](CCC)NS(=O)(=O)C1=CC=C(C=C1)Cl)=S | C19H21ClN2O4S2
